US06331539B1
Methanesulfonic anhydride (0.6 g, 3.4 mmol) was added dropwise to a stirring solution of 1-(4-aminobutyl)-2-butyl-1H-imidazo[4,5-c]quinoline-4-amine (1.0 g, 3.2 mmol) and acetonitrile (200 ml). A precipitate formed within a few minutes. The solvent was removed in vacuo and the residue was partitioned between dichloromethane and saturated aqueous sodium bicarbonate. The fractions were separated and the organic fraction was dried (MgSO4), filtered and concentrated to yield the crude product as a white solid. Recrystallization from methyl acetate provided N-[4-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]methanesulfonamide as a white crystalline solid, m.p. 195.1-196.0° C. 1H NMR (300 MHz, DMSO-d6) δ 8.04 (d, J=7.4 Hz, 1H), 7.61 (dd, J=8.3, 1.2 Hz, 1H), 7.50 (dt, J=7.5, 1.1 Hz, 1H), 7.26 (dt, J=7.5 , 1.2 Hz, 1H), 6.99 (t, J=5.7 Hz, 1H), 6.44 (broad s, 2H), 4.52 (t, J=7.5 Hz, 2H), 3.02-2.86 (m, 7H), 1.82 (m, 4H), 1.62 (m, 2H), 1.46 (q, J=7.4 Hz, 2H), 0.96 (t, J=7.4 Hz, 3H); IR (KBr) 3348, 3299, 3152, 2952, 2931, 2869, 1642, 1584, 1530, 1480, 1323, 1155, 1142, 1094, 982, 765 cm−1; MS (EI) m/e 389.1889 (389.1885 calcd for C19H27N5O2S); Anal calcd for C19H27N5O2S: C, 58.59; H 6.99; N, 17.98. Found: C, 58.26; H, 6.64; N, 17.69

reactant | Methanesulfonic anhydride | 3.4 mmol, 0.6 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | 1-(4-aminobutyl)-2-butyl-1H-imidazo[4,5-c]quinoline-4-amine | 3.2 mmol, 1.0 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCC | C18H25N5
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | N-[4-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]methanesulfonamide | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNS(=O)(=O)C)CCCC | C19H27N5O2S
